### PR TITLE
generalize indexing in lemmas for series

### PR DESCRIPTION
**Pull request by t6s**
##### Motivation for this change

There are several lemmas for series stated with zero-based indexing
`0 <= k < n` and `n <oo`.
This PR generalizes them to `m <= k < n` and `m <= n<oo`.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by t6s** [comment]
Two lemmas for `orderType`s are added in `mathcomp_extra.v` too.

**Review by affeldt-aist — APPROVED** [review]
Excellent! No doubt it will be useful at some point. Just need a rebase for the changelog.

File: theories/sequences.v [hunk 1]
```diff
@@ -951,13 +951,15 @@ rewrite -(subrr (limn (series u_))).
 by apply: cvgB => //; rewrite ?cvg_shiftS.
 Qed.
 
-Lemma nondecreasing_series (R : numFieldType) (u_ : R ^nat) (P : pred nat) :
+Lemma nondecreasing_series (R : numFieldType) (u_ : R ^nat) (P : pred nat) m :
   (forall n, P n -> 0 <= u_ n)%R ->
```
Comment (CohenCyril) [inline theories/sequences.v:955]: Why not having
```suggestion
  (forall n, m <= n -> P n -> 0 <= u_ n)%R ->
```
instead as a side-condition ?

File: classical/mathcomp_extra.v [hunk 2]
```diff
@@ -539,3 +539,11 @@ Qed.
...
   (f : forall i, X i -> T) (x : {i & X i}) : T :=
   (f (projT1 x) (projT2 x)).
+
+Lemma eq_lt_total {disp : unit} {T : orderType disp} (x y : T) :
+  [|| x == y, (x < y)%O | (y < x)%O].
+Proof. by case/boolP: (x == y)=> // ?; apply/orP; right; exact:lt_total. Qed.
+
+Lemma le_lt_total {disp : unit} {T : orderType disp} (x y : T) :
+  (x <= y)%O || (y < x)%O.
+Proof. by rewrite le_eqVlt -orbA eq_lt_total. Qed.
```
[the remark this answers is not in the document]
Comment (t6s) [reply classical/mathcomp_extra.v:549]: !

File: theories/sequences.v (hunk 1 above)
Comment (t6s) [reply theories/sequences.v:955]: Indeed.  Several other statements can be similarly generalized.  I'll work on that.

**Comment by affeldt-aist** [comment]
@t6s do you have more changes to commit?

**Comment by t6s** [comment]
> @t6s do you have more changes to commit?

Not for now.
There are points that can be further generalized, but it will take more time than I expected.
I will rather do that as a separate PR.

**Comment by affeldt-aist** [comment]
Let's merge then!
